US05607957
1. 3-[2-(N-tert-Butyloxycarbonylamino)ethyl]-5-cyano-1H-indole
To a cooled (-20° C.) and stirred suspension of 3-(2-aminoethyl)-5-cyano-1H-indole hydrochloride (15 g, 68 mmol) in anhydrous dichloromethane (500 ml) and anhydrous triethylamine (13.7 g, 136 mmol) was added di-tert-butyldicarbonate (19.3 g, 88 mmol). After being stirred at -20° C. for 0.5 hours and at room temperature for 1.5 hours, the reaction mixture was diluted with dichloromethane (300 ml), washed with 2N hydrochloric add (300 ml), brine (300 ml), dried (Na2SO4) and concentrated. Flash chromatography of the residue (silica gel, dichloromethane-methanol, 96:4) gave 11.3 g of the title compound as a white solid; mp 132°-134° C. (hexane-ethyl acetate); δH (250 MHz, CDCl3) 8.42 (1H, br s, indole N--H), 7.93 (1H, s, Ar--H), 7.41 (2H, s, Ar--H), 7.12 (1H, d, J=2.2 Hz, Ar--H), 4.71 (1H, br s, --NH--), 3.44 (2H, q, J=6.9 Hz, --CH2NH--), 2.94 (2H, t, J=6.9 Hz, Ar--CH2 --), 1.45 (9H, s, t--Bu); m/z (CI) 286 (M+ +1).

reactant | 3-(2-aminoethyl)-5-cyano-1H-indole hydrochloride | 68 mmol, 15 g | Cl.NCCC1=CNC2=CC=C(C=C12)C#N
reactant | triethylamine | 136 mmol, 13.7 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 88 mmol, 19.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-[2-(N-tert-Butyloxycarbonylamino)ethyl]-5-cyano-1H-indole | 11.3 g | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC=C(C=C12)C#N | C16H19N3O2
